US05244908
(1) Synthesis of 5-[2-(acetylamino)ethylthio]imidazo[1,2-a]pyridine (Compound 83)
To a solution of 5-[2-(amino)ethylthio]imidazo[1,2-a]pyridine dihydrochloride (2.66 g, 10 mmoles) and triethylamine (4.32 ml, 31 mmoles) in N,N-dimethylformamide (24 ml) was added acetyl chloride (0.71 ml, 10 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into water and extracted with chloroform. The chloroform layer was washed with saturated saline and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethanol/ethyl acetate=1:3) to obtain 1.57 g of the desired product (66.8%, colorless crystals).

reactant | 5-[2-(amino)ethylthio]imidazo[1,2-a]pyridine dihydrochloride | 10 mmoles, 2.66 g | Cl.Cl.NCCSC1=CC=CC=2N1C=CN2
reactant | triethylamine | 31 mmoles, 4.32 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 10 mmoles, 0.71 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
product | 5-[2-(acetylamino)ethylthio]imidazo[1,2-a]pyridine | 1.57 g, 66.8% | C(C)(=O)NCCSC1=CC=CC=2N1C=CN2 | C11H13N3OS
